US09376418B2
Dichloromethane (3.24 mL) and triphenylphosphine (0.459 g, 1.75 mmol) was added to [5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methanol (0.35 g, 0.971 mmol). Carbon tetrabromide (0.451 g, 1.36 mmol) was added slowly to the reaction mixture and stirred for 8 hours at room temperature. The reaction mixture was diluted with 10% sodium thiosulfate (5.00 mL) and the organic layer was separated, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to yield N-{3-[6-(bromomethyl)pyridin-3-yl]-5-methylphenyl}-4-(trifluoromethyl)pyrimidin-2-amine. MS APCI calc'd for C18H15BrF3N4 [M+H]+ 423 and 425. found 423 and 425.

reactant | Dichloromethane | 3.24 mL | ClCCl | CH2Cl2
reactant | triphenylphosphine | 1.75 mmol, 0.459 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methanol | 0.971 mmol, 0.35 g | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)CO | C18H15F3N4O
reactant | Carbon tetrabromide | 1.36 mmol, 0.451 g | C(Br)(Br)(Br)Br | CBr4
solvent | sodium thiosulfate | 5.00 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | N-{3-[6-(bromomethyl)pyridin-3-yl]-5-methylphenyl}-4-(trifluoromethyl)pyrimidin-2-amine | BrCC1=CC=C(C=N1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C18H14BrF3N4
